Name:  ___                    Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
Penicillins
 
Attending: ___.
 
Chief Complaint:
syncope
 
Major Surgical or Invasive Procedure:
none

 
History of Present Illness:
___ with PMHx CAD s/p CABG (___), Afib on warfarin transferred 
from ___ after syncopal event found to be in atrial 
fibrillation with RVR.  
 Patient reports waiting in line for 45 minutes in the heat, 
leaning against barrier, felt hot and tired, questionable brief 
loss of consciousness although does not recall losing 
consciousness, patient does not endorse any fall or head strike. 
He was still leaning on the barrier when EMT arrived. He does 
urinary incontinence during the episode, no fecal incontinence, 
no prior episodes. Denies feeling chest pain, palpitations, 
nausea, sweating, or any prolonged disorientation. Has had 
previous light headedness once a week for ___ year that quickly 
resolves with sitting. He took his home metoprolol night prior 
to admission.  
 He was taken to ___ ED.  
 In the ED, initial VS were 98.3 104 143/83 16 97% RA  
 Labs notable for  
 - Plt 128 otherwise normal CBC  
 - INR 2.3  
 - Na 130, K 7.8 (non-hemolyzed), CO2 20, BUN/Cr ___  
 - BNP 1036 (prior ___  
 - Lactate 2.6  
 - U/A bland  
 - repeat K 6.3 (hemolyzed)  
 - repeat K 3.8  
 - repeat lactate 1.4  
 Imaging:  
 - CXR: No acute intrathoracic process  
 - EKG: Afib 131, nL axis, PVCs, no STE/STD, TWF III  
 Received  
 ___ 20:26 IVF 1000 mL NS 1000 mL  
 ___ 21:01 IV Metoprolol Tartrate 5 mg  
 Transfer VS were 98.3 102 156/97 18 98% RA  
 Decision was made to admit to medicine for further management.  

 On arrival to the floor, patient reports feeling well, felt 
mildly weak but was able to ambulate to bathroom. Denies chest 
pain, palpitations, change in baseline SOB/DOE, nausea, 
diaphoresis, dizziness, light headedness, pre-syncope, 
unsteadiness, peripheral edema, orthopnea.  
 REVIEW OF SYSTEMS: as per HPI  
 Denies fever, chills, night sweats, headache, vision changes, 
rhinorrhea, congestion, sore throat, cough, abdominal pain, 
nausea, vomiting, diarrhea, constipation, BRBPR, melena, 
hematochezia, dysuria, hematuria.  
 All other 10-system review negative in detail.  

 
Past Medical History:
 CAD S/P CABG ___  
 ATRIAL FIBRILLATION  
 HTN  
 HLD  
 COPD  
 CARDIOMEGALY  
 ___ ESOPHAGUS  
 DIAPHRAGMATIC HERNIA  
 OSTEOARTHROS  
 MALIG MELANOMA ARM  
 VITAMIN D DEFICIENCY NOS  
 INGUINAL HERNIA S/P REPAIR  
 CERVICAL SPONDYLOSIS  

 
Social History:
___
Family History:
Bone cancer in brother  
No DM, HTN, CAD, CVA  
 
Physical Exam:
ADMISSION PE:
 VS - 98.1 154/100 97 20 97% RA  
 GENERAL: NAD  
 HEENT: anicteric sclera, PERRL, EOMI, MOM, OP Clear  
 NECK: nontender supple neck, no LAD, no JVD  
 CARDIAC: tachycardic, irregular, normal S1/S2, no M/R/G  
 LUNG: mild dyspneic with exertion, decreased BS b/l bases with 
no W/R/R  
 ABDOMEN: soft, NT ND, NABS  
 EXTREMITIES: WWP, no C/C/E  
 PULSES: 2+ DP pulses bilaterally  
 NEURO: A&O, CN II-XII intact, SILT, ___ BUE/BLE strength, 
normal gait  
 SKIN: warm and well perfused, no excoriations or lesions, no 
rashes  

DISCHARGE PE:
Vital Signs: 97.6, 174 / 94, P89, 18 100 ra, 143 / 74
L Sitting, 136 / 81 L Standing, P89-92 from lying to standing 
Tele: AF with rates 86-92. 
GENERAL: NAD, pleasant, interactive  
HEENT: anicteric sclera, PERRL, EOMI, MMM, OP Clear, No wounds 
on tongue or cheeks.   
NECK: nontender supple neck, no LAD, no JVD  
CARDIAC: irreg.irregular, normal S1/S2, no M/R/G  
LUNG: decreased BS bilaterally at bases with no crackles, 
wheeze, rhonchi   
ABDOMEN: soft, NT ND, +BS   
EXTREMITIES: WWP, no ___ edema (has compression hose on) 
PULSES: 2+ DP pulses bilaterally  
NEURO: A&Ox3, CN II-XII intact, sensation intact to light touch 
BUE and BLE. ___ BUE/BLE strength, gait deferred SKIN: warm and 
well perfused, no excoriations or lesions, no rashes   

 
Pertinent Results:
___ 09:21PM   GLUCOSE-125* UREA N-17 CREAT-1.0 SODIUM-139 
POTASSIUM-3.9 CHLORIDE-103 TOTAL CO2-24 ANION GAP-16
___ 09:21PM   proBNP-913*
___ 09:21PM   CALCIUM-8.7 PHOSPHATE-3.1 MAGNESIUM-2.1
___ 09:21PM   LACTATE-1.4 K+-3.8
___ 09:21PM   WBC-5.2 RBC-4.55* HGB-14.7 HCT-44.3 MCV-97 
MCH-32.3* MCHC-33.2 RDW-12.7 RDWSD-45.2
___ 09:21PM   NEUTS-78.3* LYMPHS-15.3* MONOS-5.6 EOS-0.2* 
BASOS-0.2 IM ___ AbsNeut-4.06 AbsLymp-0.79* AbsMono-0.29 
AbsEos-0.01* AbsBaso-0.01
___ 09:21PM   PLT COUNT-132*
___ 09:21PM   ___ PTT-37.6* ___
___ 08:22PM URINE  HOURS-RANDOM
___ 08:22PM URINE  HOURS-RANDOM
___ 08:22PM URINE  UHOLD-HOLD
___ 08:22PM URINE  GR HOLD-HOLD
___ 08:22PM URINE  COLOR-Straw APPEAR-Clear SP ___
___ 08:22PM URINE  BLOOD-NEG NITRITE-NEG PROTEIN-NEG 
GLUCOSE-NEG KETONE-NEG BILIRUBIN-NEG UROBILNGN-NEG PH-6.0 
LEUK-NEG
___ 06:53PM   LACTATE-2.6* K+-6.3*
___ 06:45PM   GLUCOSE-105* UREA N-18 CREAT-1.0 SODIUM-130* 
POTASSIUM-7.8* CHLORIDE-98 TOTAL CO2-20* ANION GAP-20
___ 06:45PM   estGFR-Using this
___ 06:45PM   cTropnT-<0.01
___ 06:45PM   proBNP-1036*
___ 06:45PM   CALCIUM-8.9 PHOSPHATE-4.1 MAGNESIUM-2.2
___ 06:45PM   WBC-4.4 RBC-4.74 HGB-15.1 HCT-47.0 MCV-99* 
MCH-31.9 MCHC-32.1 RDW-12.8 RDWSD-46.4*
___ 06:45PM   NEUTS-65.6 ___ MONOS-8.7 EOS-1.1 
BASOS-0.5 IM ___ AbsNeut-2.86 AbsLymp-1.03* AbsMono-0.38 
AbsEos-0.05 AbsBaso-0.02
___ 06:45PM   PLT COUNT-128*
___ 06:45PM   ___ PTT-40.4* ___

TTE ___: 
Conclusions   
 The left atrium is moderately dilated. The right atrium is 
markedly dilated. No atrial septal defect is seen by 2D or color 
Doppler. The estimated right atrial pressure is ___ mmHg. Left 
ventricular wall thicknesses and cavity size are normal. There 
is mild global left ventricular hypokinesis (LVEF = 45 %). There 
is considerable beat-to-beat variability of the left ventricular 
ejection fraction due to an irregular rhythm/premature beats. 
There is no left ventricular outflow obstruction at rest or with 
Valsalva. The right ventricular cavity is mildly dilated with 
mild global free wall hypokinesis. The aortic valve leaflets (3) 
are mildly thickened but aortic stenosis is not present. Trace 
aortic regurgitation is seen. The mitral valve leaflets are 
mildly thickened. There is no mitral valve prolapse. Mild (1+) 
mitral regurgitation is seen. The tricuspid valve leaflets are 
mildly thickened. There is borderline pulmonary artery systolic 
hypertension. There is an anterior space which most likely 
represents a prominent fat pad. 

IMPRESSION: Mild global biventricular systolic dysfunction in 
the context of atrial fibrillation with a relatively fast 
ventricular response. No significant valvular disease.   

Non-con CT Head ___: 
IMPRESSION: 
1. No evidence of acute large territory infarction, hemorrhage, 
edema, or 
mass. 
2. No evidence of fracture. 
3. Chronic age-related involution and sequelae of small vessel 
ischemic 
disease. 

___ 07:07AM BLOOD WBC-4.3 RBC-4.48* Hgb-14.3 Hct-43.2 
MCV-96 MCH-31.9 MCHC-33.1 RDW-12.7 RDWSD-45.5 Plt ___
___ 05:05AM BLOOD ___
___ 07:07AM BLOOD Plt ___
___ 07:07AM BLOOD Glucose-111* UreaN-11 Creat-0.9 Na-142 
K-3.8 Cl-106 HCO3-24 AnGap-16
___ 07:07AM BLOOD CK-MB-1 cTropnT-<0.01
___ 09:21PM BLOOD proBNP-913*
___ 07:07AM BLOOD Calcium-8.7 Phos-2.9 Mg-2.1
___ 09:21PM BLOOD Lactate-1.4 K-3.___ with PMHx CAD s/p CABG, Afib on warfarin and metoprolol 
presenting with possible syncopal event and found to be in 
atrial fibrillation with RVR. He describes feeling whoozy after 
standing in line for so long and his wife reports seeing him 
look very fatigued and telling him to go sit down. Pt was seated 
when he may have lost consciousness briefly, wife and pt unsure, 
and slumped onto his wife. Pt notes that he may have blacked out 
for a second but he never hit the ground. He had urinary 
incontinence but she did not note any shaking or convulsions. 
She reports that he recovered within a few minutes and never 
demonstrated confusion or somnolence right after the event. He 
denies CP or palpitations preceding the event. Of note, he has 
had episodes of fainting about once every ___ years associated 
with standing up. 

# Syncope: dysrhythmia vs seizure vs AS/AI vs vasovagal   
Likely vasovagal/orthostasis given that the patient felt weak 
with standing. Also considered cardiac dysrhythmia given Afib, 
however monitored on tele without events, no concerning findings 
on ECHO.  Unlikely to be neurological given quick recovery time 
and no prior hx of seizure. Vasovagal also possible given 
context of standing for prolonged period and feeling "whoozy" 
surrounding the event.  Patient was monitored on telemetry for 2 
days with no events and had ECHO that shows no significant 
changes (EF 45 % from 50 % ___, which is likely unchanged given 
technical limitations).   

# Atrial fibrillation  
CHADS2 = 2, R/C = metoprolol, A/C = warfarin  
Provoked RVR likely due to dehydration from standing in heat. No 
s/s cardiac ischemia or infection. ___ require escalation of 
metoprolol as BP allows. S/P 5mg IV metoprolol in ED. Rates 
controlled on floor HR 70-80's. INR 2.8 on d/c.   

CHRONIC ISSUES  
# CAD S/P CABG: continued home metoprolol, aspirin, exetimibe.   


# HTN: hypertensive, on 5mg amlodipine at home, discharged on 5 
mg. 

# HLD : Continued Ezetimibe 10 mg PO DAILY  

# GERD w/ ___ ESOPHAGUS: stable. Continued Omeprazole 40 
mg PO DAILY  
 
# COPD: controlled, no evidence of exacerbation. Discharged with 
home nebs 
 
# BPH: controlled: continued home finasteride in house

TRANSITIONAL ISSUES
========================================
-Patient had repeat ECHO with EF 45 %, unlikely changed from 
___ ECHO
-consider switching to NOAC from warfarin per patient's PCP  
-___ to resume 2.5 mg daily warfarin on d/c, reduced dose of 
1 mg on ___ given uptrending INR (2.3 on admission 2.8 on d/c). 

-f/u INR as outpatient  

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Warfarin 2.5 mg PO DAILY16 
2. Metoprolol Succinate XL 50 mg PO DAILY 
3. Omeprazole 40 mg PO DAILY 
4. Ezetimibe 10 mg PO DAILY 
5. amLODIPine 5 mg PO DAILY 
6. Finasteride 5 mg PO DAILY 
7. Anoro Ellipta (umeclidinium-vilanterol) 62.5-25 mcg/actuation 
inhalation DAILY 
8. Aspirin 81 mg PO DAILY 
9. lutein 6 mg oral DAILY 
10. Vitamin D 1000 UNIT PO DAILY 

 
Discharge Medications:
1.  amLODIPine 5 mg PO DAILY  
2.  Anoro Ellipta (umeclidinium-vilanterol) 62.5-25 
mcg/actuation inhalation DAILY  
3.  Aspirin 81 mg PO DAILY  
4.  Ezetimibe 10 mg PO DAILY  
5.  Finasteride 5 mg PO DAILY  
6.  lutein 6 mg oral DAILY  
7.  Metoprolol Succinate XL 50 mg PO DAILY  
8.  Omeprazole 40 mg PO DAILY  
9.  Vitamin D 1000 UNIT PO DAILY  
10.  Warfarin 2.5 mg PO DAILY16  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Primary: 
Atrial fibrillation with rapid ventricular response 

 
Discharge Condition:
Alert and oriented to person, place, and time
Fully ambulatory without restrictions
Independent in all ADLs 

 
Discharge Instructions:
Dear Mr. ___, 

You were admitted to ___ after fainting. 
You were found to be in atrial fibrillation with a fast heart 
rate, which may have caused the symptoms you presented with. We 
did an echocardiogram of your heart which showed some mild 
changes, likely related to your known heart disease, as well as 
confirming your a-fib. 

We also did a cat scan of your head and found no abnormalities. 

We kept you on your home medications and recommend that you 
follow-up with your primary care physician after you leave the 
hospital discuss management of your atrial fibrillation as well 
as the fainting episodes that you have been having. We have set 
up and appointment for you (please see below). 

Thank you for allowing us to participate in your care.

All the best, 
The ___ Medicine Team 

 
Followup Instructions:
___